* OVERALL BEST CANDIDATE: 00_Phase_1_3_3V_Logic_to_5V_Rail_Boost_g2_cand1_b3
* FITNESS SCORE: 0.9701
*
* Generated: 2026-05-31T20:33:46
* Constraint: Phase 1: 3.3V Logic to 5V Rail (Boost)
*   vin_min = 3.0
*   vin_max = 3.6
*   vout_target = 5
*   efficiency_target = 0.75
*   power_in = 5
* Candidate: 5 of 8
* Grouped name: g2_cand1
*
* 3.3V to 5V Boost
Vin in 0 3.3
L1 in sw 10u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 0.556
Vgate gate 0 PULSE(0 12 0 1n 1n 4.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
